US05317018
6-(2-Bromophenyl)-8-fluoro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxamide
A mixture of 3 g (7.5 mmol) of 6-(2-bromophenyl)-8-fluoro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid, 300 mL of methylene chloride and 2.25 g (10.8 mmol) of phosphorus pentachloride was stirred at room temperature for 2 hours. Ammonia gas was then introduced until the mixture was basic. After layering with 20 mL of concentrated aqueous ammonia, the mixture was stirred for 15 minutes. The methylene chloride was washed with water, dried and evaporated. The residue was crystallized from ethanol/water to yield 2.4 g of product having the above formula. A second crop of 0.4 g was obtained from the mother liquor for a total yield of 2.8 g. For analysis, a sample of the product was recrystallized from methylene chloride/ethanol and had m.p. 298°-299° C.

reactant | 6-(2-bromophenyl)-8-fluoro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid | 7.5 mmol, 3 g | BrC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(C=C3)F)C=NC2C(=O)O | C18H11BrFN3O2
reactant | phosphorus pentachloride | 10.8 mmol, 2.25 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | Ammonia | N | H3N
reactant | ammonia | 20 mL | N | H3N
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
product | 6-(2-Bromophenyl)-8-fluoro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxamide | 2.4 g | BrC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(C=C3)F)C=NC2C(=O)N | C18H12BrFN4O
